US08039463B2
HOBt (70 mg, 0.5 mmol) and DIEA (11 mg, 0.9 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (50 mg, 0.3 mmol) in DMF (3 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (80 mg, 0.5 mmol) followed by N-phenyl-benzene-1,4-diamine (100 mg, 0.3 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using basic alumina (10% methanol in chloroform) to afford 15 mg (10%) of 3-oxo-N-(4-phenylamino-phenyl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 511.19 (M+1)+, 96.55%, 1H NMR: (CDCl3): δ 7.7 (m, 1H), 7.6 (m, 2H), 7.4 (m, 4H), 7.1 (m, 1H), 7.0 (m, 3H), 6.8 (m, 1H), 4.0 (m, 2H), 3.8 (m, 2H), 3.4 (m, 3H), 3.2 (m, 2H).

reactant | HOBt | 0.5 mmol, 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.9 mmol, 11 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.3 mmol, 50 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.5 mmol, 80 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-phenyl-benzene-1,4-diamine | 0.3 mmol, 100 mg | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-oxo-N-(4-phenylamino-phenyl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 15 mg, 10% | O=C(CC(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H25F3N4O3
